US05294734
1.43 g (4.82 mmol) of 4-bromomethyl-6-flouro-2-formylamino-hex-3-enoic acid ethyl ester and 5.3 ml (19 mmol) of triisopropyl phosphite (96%) are heated to 80° and stirred under a pressure of approximately 130 mbar for 18 hours. The excess triisopropyl phosphite is distilled off under reduced pressure and the evaporation residue is purified by chromatography on silica gel with ethyl acetate. 4-diisopropylphosphonomethyl-6-fluoro-2-formylamino-hex-3-enoic acid ethyl ester is obtained in the form of a yellowish oil.

reactant | 4-bromomethyl-6-flouro-2-formylamino-hex-3-enoic acid ethyl ester | 4.82 mmol, 1.43 g | C(C)OC(C(C=C(CCF)CBr)NC=O)=O | C10H15BrFNO3
reactant | triisopropyl phosphite | 19 mmol, 5.3 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
product | 4-diisopropylphosphonomethyl-6-fluoro-2-formylamino-hex-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCF)CP(=O)(OC(C)C)OC(C)C)NC=O)=O | C16H29FNO6P
